US07026340B2
By using (3,3,3-trifluoropropyl)malononitrile (540 mg), N,N-dimethylformamide (4 ml), potassium carbonate (400 mg) and 6-bromo-2-(bromomethyl)pyridine (590 mg) according to the similar method described in Production Example 4 was obtained 541 mg of 2-((6-bromo-2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (14)).

reactant | (3,3,3-trifluoropropyl)malononitrile | 540 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 400 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromo-2-(bromomethyl)pyridine | 590 mg | BrC1=CC=CC(=N1)CBr | C6H5Br2N
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 2-((6-bromo-2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 541 mg | BrC1=CC=CC(=N1)CC(C#N)(C#N)CCC(F)(F)F | C12H9BrF3N3
